US09102669B2
To a mixture of 3,6-dichloropyridazine (2.98 g, 20 mmol) in DMSO (10 mL) was added 1,4-dioxa-8-azaspiro[4.5]decane (3 g, 21 mmol) and DIPEA (4.18 mL, 24 mmol). The resulting mixture was heated at 80° C. for 4 h and was then poured into H2O (300 mL). The resulting solid was washed with H2O (10 mL×3) and hexane (10 mL×3) and then dried to yield 8-(6-chloropyridazin-3-yl)-1,4-dioxa-8-azaspiro[4.5]decane.

reactant | 3,6-dichloropyridazine | 20 mmol, 2.98 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 21 mmol, 3 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | DIPEA | 24 mmol, 4.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | H2O | 300 mL | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 8-(6-chloropyridazin-3-yl)-1,4-dioxa-8-azaspiro[4.5]decane | ClC1=CC=C(N=N1)N1CCC2(OCCO2)CC1 | C11H14ClN3O2
